US07651993B2
A solution of 3-(perfluorobutylsulfonyl)propanol (54.4 g, 159 mmol), triethylamine (33 ml, 238 mmol), 4-t-butylcatechol (0.14 g) and dichloromethane (520 ml) was cooled to 0° C. in a state of being equipped with a calcium chloride, and then acryloyl chloride (15.5 ml, 191 mmol) was slowly added dropwise over 40 minutes. After stirring at room temperature for one hour and washing the mixture with 15% citric acid (600 ml) water and saturated saline, the mixture was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure to obtain a crude acrylate ester. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=6:1) and the transparent liquid was vacuum-dried after concentration to obtain 60.0 g of 3-(perfluorobutylsulfonyl)propyl acrylate. Yield was 95.3%.

reactant | 3-(perfluorobutylsulfonyl)propanol | 159 mmol, 54.4 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)CCCO)F | C7H7F9O3S
reactant | triethylamine | 238 mmol, 33 ml | C(C)N(CC)CC | C6H15N
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | acryloyl chloride | 191 mmol, 15.5 ml | C(C=C)(=O)Cl | C3H3ClO
catalyst | 4-t-butylcatechol | 0.14 g | C(C)(C)(C)C=1C=C(C(O)=CC1)O | C10H14O2
solvent | dichloromethane | 520 ml | ClCCl | CH2Cl2
product | 3-(perfluorobutylsulfonyl)propyl acrylate | 60.0 g, Yield was 95.3% | C(C=C)(=O)OCCCS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C10H9F9O4S
